US05677459
Enantiomerically enriched 5-bromo-3-(2-pyrrolidinyl)pyridine (1.82 g, 8 mmol) was dissolved in a mixture of 98% formic acid (16 mL) and 37% aqueous formaldehyde (8 mL). The solution was heated with stirring for 3 h at 80° C. After cooling to 25° C. the mixture was concentrated in vacuo and water (30 mL) added. The mixture was basified with solid NaOH to pH 12 and extracted with methylene chloride (3×40 mL). The combined organic extracts were washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo. The crude material was chromatographed on silica gel with ethyl acetate:hexane (1:3) as eluant to afford 5-bromo-3-(1-methyl-2-pyrrolidinyl)pyridine as an oil, 1.63 g,84%. LRMS (EI) m/e 242 (C10H13N281Br), 241 (C10 H13N279Br--+H), 240 (C10H13 N279Br), 239 (C10H13N279Br--+H); 1H NMR (DMSO-d6, 300 MHz) δ 8.55 (d, J=2.1 Hz, 1H), 8.44 (d, J=1.9 Hz, 1H), 7.88 (t, J=1.9 Hz, 1H), 3.24 (b-dt, J=8.1 Hz, 1H), 3.10 (t, J=8.0 Hz, 1H), 2.36 (m, 1H), 2.18 (s, 3H), 1.95 (m, 1H), 1.85 (m, 1H), 1.70 (m, 1H).

reactant | 5-bromo-3-(2-pyrrolidinyl)pyridine | 8 mmol, 1.82 g | BrC=1C=C(C=NC1)C1NCCC1 | C9H11BrN2
reactant | formic acid | 16 mL | C(=O)O | CH2O2
solvent | formaldehyde | 8 mL | C=O | CH2O
product | 5-bromo-3-(1-methyl-2-pyrrolidinyl)pyridine | BrC=1C=C(C=NC1)C1N(CCC1)C | C10H13BrN2
